US07851463B2
31.2 2-(1-Benzyl-pyrrolidin-3-yl)-5-nitro-pyridine
0.15 g of 5-nitro-2-vinyl-pyridine were dissolved in 2.5 ml of dichloromethane, 0.149 g of trifluoroacetic acid (1.31 mmol) were added, followed by slow addition of 0.928 g of N-benzyl-N-(methoxymethyl)-N-trimethylsilylmethylamine (3.91 mmol). Stirring was continued at room temperature for 1 h, before the reaction mixture was washed with aqueous sodium hydrogencarbonate, the aqueous layer reextracted with dichloromethane, the organic layers combined, dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure. The crude product was purified via silica gel chromatography with ethyl acetate. Fractions containing the product were combined, the solvent evaporated to yield 0.186 g of the desired product.

reactant | 5-nitro-2-vinyl-pyridine | 0.15 g | [N+](=O)([O-])C=1C=CC(=NC1)C=C | C7H6N2O2
reactant | trifluoroacetic acid | 1.31 mmol, 0.149 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-benzyl-N-(methoxymethyl)-N-trimethylsilylmethylamine | 3.91 mmol, 0.928 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | 2-(1-Benzyl-pyrrolidin-3-yl)-5-nitro-pyridine | 0.186 g | C(C1=CC=CC=C1)N1CC(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C16H17N3O2
